US09102621B2
4-{[(5-Chloropyridin-2-yl)oxy]methyl}-N-(methylsulfonyl)benzamide
A solution of 2-(4-bromobenzyloxy)-5-chloropyridine (Preparation 107, 0.12 g, 0.40 mmol), methanesulfonamide (0.10 g, 0.12 mmol), tri-tert-butylphosphonium tetrafluoroborate (12 mg, 0.04 mmol), Herrmann's palladacycle (18 mg, 0.02 mmol) and molybdenehexacarbonyl (105 mg, 0.40 mmol) was stirred in dioxane (2 mL). 1,8-diazabicyclo[5.4.0]undec-7-ene (0.18 mL, 0.12 mmol) was added in one portion, then the vial was sealed and heated in a microwave for 15 minutes at 140° C. The solvent was evaporated in vacuo. The residue was extracted with dichloromethane (30 mL) and washed with water (10 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated. The resulting solid was purified on a 10 g silica cartridge (eluent:dichloromethane, followed by 3% methanol in dichloromethane) to afford the title compound (51 mg, 37%) as a beige solid. This was purified further by preparative HPLC.

reactant | 2-(4-bromobenzyloxy)-5-chloropyridine | 0.40 mmol, 0.12 g | BrC1=CC=C(COC2=NC=C(C=C2)Cl)C=C1 | C12H9BrClNO
reactant | methanesulfonamide | 0.12 mmol, 0.10 g | CS(=O)(=O)N | CH5NO2S
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.04 mmol, 12 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.12 mmol, 0.18 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Herrmann's palladacycle | 0.02 mmol, 18 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
product | 4-{[(5-Chloropyridin-2-yl)oxy]methyl}-N-(methylsulfonyl)benzamide | 51 mg, 37% | ClC=1C=CC(=NC1)OCC1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C14H13ClN2O4S
